US07179823B1
A mixture of [1-[4-(5-methyl-2-phenyl-4-oxazolylmethoxy)benzyl]-4-phenyl-3-pyrrolyl]methanol (3.98 g), activated manganese dioxide (8.00 g), and toluene (50 ml) was stirred at 80° C. for 10 hours. After the manganese dioxide was removed by filtration, the filtrate was concentrated. The residue was subjected to silica gel column chromatography, and 1-[4-(5-methyl-2-phenyl-4-oxazolylmethoxy)benzyl]-4-phenylpyrrole-3-carbaldehyde (2.85 g, yield: 72%) was obtained as colorless crystals from the fraction eluted with ethyl acetate-hexane (2:3, volume ratio). This was recrystallized from ethyl acetate-hexane. Melting point: 117–118° C.

reactant | [1-[4-(5-methyl-2-phenyl-4-oxazolylmethoxy)benzyl]-4-phenyl-3-pyrrolyl]methanol | 3.98 g | CC1=C(N=C(O1)C1=CC=CC=C1)COC1=CC=C(CN2C=C(C(=C2)C2=CC=CC=C2)CO)C=C1 | C29H26N2O3
catalyst | manganese dioxide | 8.00 g | [O-2].[O-2].[Mn+4]
solvent | toluene | 50 ml | C1(=CC=CC=C1)C | C7H8
product | 1-[4-(5-methyl-2-phenyl-4-oxazolylmethoxy)benzyl]-4-phenylpyrrole-3-carbaldehyde | 2.85 g, yield: 72% | CC1=C(N=C(O1)C1=CC=CC=C1)COC1=CC=C(CN2C=C(C(=C2)C2=CC=CC=C2)C=O)C=C1 | C29H24N2O3
